US05807859
10 g of 5H,10H-imidazo[1,2-a]indeno[1,2-e]-pyrazin-4-one and 27.1 g of 3-nitrobenzaldehyde are refluxed for 15 hours in the presence of 13.79 g of ammonium acetate in 600 ml of acetic acid. The precipitate formed is filtered off, washed with water and dried under reduced pressure (1 mmHg; 0.13 kPa) at 45° C. 10 g of 10-(3-nitrobenzylidene)-5H-imidazo-[1,2-a]indeno[1,2-e]pyrazin-4-one are obtained in the form of a yellowish powder, the melting point of which is greater than 260° C. (Analysis, C20H12N4O3 ; % calculated C: 67.42; H: 3.39; N: 15.57; O: 13.47; % found C: 67.4; H: 3.2; N: 15.6; O: 13.5).

reactant | 5H,10H-imidazo[1,2-a]indeno[1,2-e]-pyrazin-4-one | 10 g | C1=CN=C2N1C1=C(NC2=O)C=2C=CC=CC2C1 | C13H9N3O
reactant | 3-nitrobenzaldehyde | 27.1 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | ammonium acetate | 13.79 g | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | 600 ml | C(C)(=O)O | C2H4O2
product | 10-(3-nitrobenzylidene)-5H-imidazo-[1,2-a]indeno[1,2-e]pyrazin-4-one | 10 g | [N+](=O)([O-])C=1C=C(C=C2C=3C=CC=CC3C=3NC(C=4N(C32)C=CN4)=O)C=CC1 | C20H12N4O3
